US08039459B2
(+)—Epibatidine dihydrochloride was treated with triethyl amine (10 eq) in dichloromethane for 1 hour at room temperature and epibatidine was then isolated following standard isolation protocol.

reactant | (+)—Epibatidine dihydrochloride | C1CC2C(CC1N2)C3=CN=C(C=C3)Cl.Cl.Cl
reactant | triethyl amine | 10 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | epibatidine | C1=CC(=NC=C1C2CC3CCC2N3)Cl | C11H13ClN2
